### PR TITLE
[Merged by Bors] - feat(Algebra): characterise when a submodule constructor is equal to `⊥`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Submonoid/Defs.lean [hunk 1]
```diff
@@ -240,6 +248,11 @@ theorem coe_top : ((⊤ : Submonoid M) : Set M) = Set.univ :=
 theorem coe_bot : ((⊥ : Submonoid M) : Set M) = {1} :=
   rfl
 
+@[to_additive (attr := simp)]
+lemma mk_eq_bot (toSubsemigroup : Subsemigroup M) (one_mem') :
+    mk toSubsemigroup one_mem' = ⊥ ↔ (toSubsemigroup : Set M) = {1} := by
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Submonoid/Defs.lean:257]:
```suggestion
    mk toSubsemigroup one_mem' = ⊥ ↔ toSubsemigroup = ⊥ := by
```

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Submonoid/Defs.lean:257]: Nope, the empty subsemigroup is the empty set. That's why I must have the coercion on the RHS

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 2]
```diff
@@ -726,8 +726,10 @@ theorem top_toSubring {R A : Type*} [CommRing R] [NonUnitalNonAssocRing A] [Modu
   rfl
 
 @[simp]
-theorem toSubmodule_eq_top {S : NonUnitalSubalgebra R A} : S.toSubmodule = ⊤ ↔ S = ⊤ :=
-  NonUnitalSubalgebra.toSubmodule'.injective.eq_iff' top_toSubmodule
+lemma toAddSubmonoid_eq_top {S : NonUnitalSubalgebra R A} : S.toAddSubmonoid = ⊤ ↔ S = ⊤ := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: You're missing the more general lemma here that
```lean
@[simp]
lemma NonUnitalSubsemiring.toAddSubmonoid_eq_top {S : NonUnitalSubsemiring A} : S.toAddSubmonoid = ⊤ ↔ S = ⊤ := by
  simp [← SetLike.coe_set_eq]
```
with which your current lemma is rejected by the simpNF linter.

File: Mathlib/Algebra/Group/Submonoid/Defs.lean [hunk 3]
```diff
@@ -240,6 +248,15 @@ theorem coe_top : ((⊤ : Submonoid M) : Set M) = Set.univ :=
...
   rfl
 
+@[to_additive (attr := simp)]
+lemma mk_eq_top (toSubsemigroup : Subsemigroup M) (one_mem') :
+    mk toSubsemigroup one_mem' = ⊤ ↔ toSubsemigroup = ⊤ := by simp [← SetLike.coe_injective'.eq_iff]
+
+@[to_additive (attr := simp)]
+lemma mk_eq_bot (toSubsemigroup : Subsemigroup M) (one_mem') :
+    mk toSubsemigroup one_mem' = ⊥ ↔ (toSubsemigroup : Set M) = {1} := by
+  simp [← SetLike.coe_injective'.eq_iff]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Submonoid/Defs.lean]: It's not clear to me that these are good `simp` lemmas; if you want to lose the information that you are working with a subsemigroup, you would first use `coe_inj` to rewrite to sets, and then let this apply.

I won't block on this.

File: Mathlib/Algebra/Group/Subsemigroup/Defs.lean [hunk 4]
```diff
@@ -198,6 +198,14 @@ theorem coe_top : ((⊤ : Subsemigroup M) : Set M) = Set.univ :=
 theorem coe_bot : ((⊥ : Subsemigroup M) : Set M) = ∅ :=
   rfl
 
+@[to_additive (attr := simp)]
+lemma mk_eq_top (carrier : Set M) (mul_mem') : mk carrier mul_mem' = ⊤ ↔ carrier = .univ := by
+  simp [← SetLike.coe_injective'.eq_iff]
+
+@[to_additive (attr := simp)]
+lemma mk_eq_bot (carrier : Set M) (mul_mem') : mk carrier mul_mem' = ⊥ ↔ carrier = ∅ := by
+  simp [← SetLike.coe_injective'.eq_iff]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Subsemigroup/Defs.lean]: Do you want the `<`/`>` versions too?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Subsemigroup/Defs.lean]: I don't care for them, and since there is already some pushback from both Andrew and you, I will skip them for now

File: Mathlib/Algebra/Group/Submonoid/Defs.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Submonoid/Defs.lean]: I don't see what good there is to remember that I'm working with the trivial subsemigroup. I can't think of a simplification that could happen there which wouldn't happen on the set level too

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 5]
```diff
@@ -725,20 +725,18 @@ theorem top_toSubring {R A : Type*} [CommRing R] [NonUnitalNonAssocRing A] [Modu
...
-theorem toSubmodule_eq_top {S : NonUnitalSubalgebra R A} : S.toSubmodule = ⊤ ↔ S = ⊤ :=
-  NonUnitalSubalgebra.toSubmodule'.injective.eq_iff' top_toSubmodule
+@[simp] lemma toNonUnitalSubsemiring_eq_top {S : NonUnitalSubalgebra R A} :
+    S.toNonUnitalSubsemiring = ⊤ ↔ S = ⊤ := by simp [← SetLike.coe_set_eq]
 
-@[simp]
-theorem toNonUnitalSubsemiring_eq_top {S : NonUnitalSubalgebra R A} :
-    S.toNonUnitalSubsemiring = ⊤ ↔ S = ⊤ :=
-  NonUnitalSubalgebra.toNonUnitalSubsemiring_injective.eq_iff' top_toNonUnitalSubsemiring
+lemma toSubmodule_eq_top {S : NonUnitalSubalgebra R A} : S.toSubmodule = ⊤ ↔ S = ⊤ := by simp
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:731]: Can you add a comment explaining why one is `simp` but the other is not?

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 6]
```diff
@@ -725,20 +725,18 @@ theorem top_toSubring {R A : Type*} [CommRing R] [NonUnitalNonAssocRing A] [Modu
...
 
 @[simp]
-theorem to_subring_eq_top {R A : Type*} [CommRing R] [Ring A] [Algebra R A]
+theorem toSubring_eq_top {R A : Type*} [CommRing R] [Ring A] [Algebra R A]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]:
```suggestion
theorem toNonUnitalSubring_eq_top {R A : Type*} [CommRing R] [Ring A] [Algebra R A]
```

File: Mathlib/Algebra/Group/Submonoid/Defs.lean [hunk 7]
```diff
@@ -240,6 +248,15 @@ theorem coe_top : ((⊤ : Submonoid M) : Set M) = Set.univ :=
 theorem coe_bot : ((⊥ : Submonoid M) : Set M) = {1} :=
   rfl
 
+@[to_additive (attr := simp)]
+lemma mk_eq_top (toSubsemigroup : Subsemigroup M) (one_mem') :
+    mk toSubsemigroup one_mem' = ⊤ ↔ toSubsemigroup = ⊤ := by simp [← SetLike.coe_injective'.eq_iff]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Submonoid/Defs.lean]: Is `SetLike.coe_inj` a shorter spelling of this?

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 8]
```diff
@@ -260,6 +260,12 @@ theorem mem_top (x : R) : x ∈ (⊤ : NonUnitalSubsemiring R) :=
 theorem coe_top : ((⊤ : NonUnitalSubsemiring R) : Set R) = Set.univ :=
   rfl
 
+@[simp] lemma toAddSubmonoid_top : (⊤ : NonUnitalSubsemiring R) = ⊤ := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: This is surely a tautology?

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 9]
```diff
@@ -260,6 +260,12 @@ theorem mem_top (x : R) : x ∈ (⊤ : NonUnitalSubsemiring R) :=
...
+
+@[simp]
+lemma toAddSubmonoid_eq_top {S : NonUnitalSubsemiring R} : S.toAddSubmonoid = ⊤ ↔ S = ⊤ := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean:269]: Is there a corresponding `toAddSubgroup` version for `Subring` or similar?

File: Mathlib/Algebra/Group/Submonoid/Defs.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Submonoid/Defs.lean]: `SetLike.coe_set_eq`, but yes. It should really be renamed, I can never find it when I need it!

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: Whoops!

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 10]
```diff
@@ -725,20 +725,20 @@ theorem top_toSubring {R A : Type*} [CommRing R] [NonUnitalNonAssocRing A] [Modu
...
-  NonUnitalSubalgebra.toSubmodule'.injective.eq_iff' top_toSubmodule
+@[simp] lemma toNonUnitalSubsemiring_eq_top {S : NonUnitalSubalgebra R A} :
+    S.toNonUnitalSubsemiring = ⊤ ↔ S = ⊤ := by simp [← SetLike.coe_set_eq]
 
-@[simp]
-theorem toNonUnitalSubsemiring_eq_top {S : NonUnitalSubalgebra R A} :
-    S.toNonUnitalSubsemiring = ⊤ ↔ S = ⊤ :=
-  NonUnitalSubalgebra.toNonUnitalSubsemiring_injective.eq_iff' top_toNonUnitalSubsemiring
+-- This lemma isn't simp because `NonUnitalSubalgebra.toSubmodule` is a "fake" projection,
+-- which is syntactically a composition of two other projections.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: This is false.

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 11]
```diff
@@ -725,20 +725,20 @@ theorem top_toSubring {R A : Type*} [CommRing R] [NonUnitalNonAssocRing A] [Modu
     (⊤ : NonUnitalSubalgebra R A).toNonUnitalSubring = ⊤ :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:722]: This lemma is ~~a duplicate of the one above.~~ misnamed

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: What's your explanation, then?

Comment (eric-wieser) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: What goes wrong if you make it `simp`?

File: Mathlib/Algebra/Group/Subsemigroup/Defs.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Group/Subsemigroup/Defs.lean]: Fair enough

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: Then it is proved by `simp only [Submodule.mk_eq_top, NonUnitalSubsemiring.toAddSubmonoid_eq_top, toNonUnitalSubsemiring_eq_top]`. I guess I should have said
```suggestion
-- This lemma isn't simp because `NonUnitalSubalgebra.toSubmodule` is a "fake" projection,
-- which is syntactically a constructor application.
```
instead

Comment (eric-wieser) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: I think what you actually mean is "is reducible", since `#print` gives
```
@[reducible] def NonUnitalSubalgebra.toSubmodule.{u, v} : {R : Type u} →
  {A : Type v} →
    [inst : CommSemiring R] →
      [inst_1 : NonUnitalNonAssocSemiring A] → [inst_2 : Module R A] → NonUnitalSubalgebra R A → Submodule R A :=
fun R A [CommSemiring R] [NonUnitalNonAssocSemiring A] [Module R A] self =>
  { toAddSubmonoid := self.toAddSubmonoid, smul_mem' := ⋯ }
```

Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: I guess we're both right here

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 12]
```diff
@@ -720,24 +720,25 @@ theorem top_toNonUnitalSubsemiring : (⊤ : NonUnitalSubalgebra R A).toNonUnital
...
 @[simp]
-theorem top_toSubring {R A : Type*} [CommRing R] [NonUnitalNonAssocRing A] [Module R A]
+theorem toNonUnitalSubring_top {R A : Type*} [CommRing R] [NonUnitalNonAssocRing A] [Module R A]
     [IsScalarTower R A A] [SMulCommClass R A A] :
     (⊤ : NonUnitalSubalgebra R A).toNonUnitalSubring = ⊤ :=
   rfl
 
-@[simp]
-theorem toSubmodule_eq_top {S : NonUnitalSubalgebra R A} : S.toSubmodule = ⊤ ↔ S = ⊤ :=
-  NonUnitalSubalgebra.toSubmodule'.injective.eq_iff' top_toSubmodule
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:730]: nit: I preferred the old proof; though perhaps we should extract the `toSubmodule_inj(ective)` lemmas as you did in other files?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:730]: I prefer the current proof because it mentions one generic lemma, instead of two structure-specific ones. Will add `toSubmodule_inj` though
